US04316020
14.7 parts of isatin are suspended in 80 parts of formic acid. 20 parts of 30 percent strength hydrogen peroxide solution are added dropwise, with slight cooling. The mixture is then stirred for 60 minutes at 25° C., after which it is worked up in a conventional manner. 13.2 parts of isatoic anhydride are obtained; melting point 252°-253° C., with decomposition.

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | hydrogen peroxide | OO | H2O2
solvent | formic acid | C(=O)O | CH2O2
product | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
